data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-c1ccc(OC)cc1_2-c1ccc(N(C)C)cc1_3-c1ccccc1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)C=O","C(c1ccc(N(C)C)cc1)(c1ccccc1)=O"],"products_smiles": ["C(c1ccc(N(C)C)cc1)(c1ccccc1)=C(C=O)c1ccc(OC)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(c1ccccc1)([O-])C(C=O)c1ccc(OC)cc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of c1ccc(N(C)C)cc1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(c1ccccc1)(O)C(C=O)c1ccc(OC)cc1","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(c1ccccc1)(O)C=C([O-])c1ccc(OC)cc1","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(c1ccccc1)=C(C=O)c1ccc(OC)cc1","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
{"reaction_id": "NR-201_1-C#CC_2-Cl","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(C#CC))=CC(=O)C=C(C(Cl))","CS(=O)(=O)O"],"products_smiles": ["C(Cl)C1=CC(=O)CC1(C#CC)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C#CC))=CC(=[OH+])C=CC(Cl)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(C#CC))C(Cl))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(Cl))C(C#CC))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cl)C1=CC(=O)CC1(C(C#CC))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
